US05451347
4-(Bromomethyl)benzyltri-n-butylphosphonium bromide (5).
A mixture of tri-n-butylphosphine (5.7 g, 28.4 mmol) in toluene (50 mL) was added dropwise to a mixture of α,α'-dibromo-p-xylene (15 g, 56.8 mmol, 2 eq.) in 200 mL of toluene under argon gas. The reaction mixture was allowed to stir for several days at room temperature under argon, after which time the tri-n-butylphosphonium bromide salt had crystallized out of solution. The crystals were filtered and washed three times each with 50 mL portions toluene and hexanes, then air dried: 1H NMR (CDCl3) δ 0.93 (t, 9H), 1.45 (m, 12H), 2.40 (m, 6H), 4.33-4.37 (d, 2H), 4.47 (s, 2H), 7.37-7.40 (d, 2H), 7.46-7.49 (dd, 2H).

reactant | tri-n-butylphosphine | 28.4 mmol, 5.7 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | α,α'-dibromo-p-xylene | 56.8 mmol, 15 g, 2 eq. | BrCC1=CC=C(C=C1)CBr | C8H8Br2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Bromomethyl)benzyltri-n-butylphosphonium bromide | [Br-].BrCC1=CC=C(C[P+](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C20H35BrP.BrH/c1-4-7-14-22(15-8-5-2,16-9-6-3)18-20-12-10-19(17-21)11-13-20;/h10-13H,4-9,14-18H2,1-3H3;1H/q+1;/p-1
